US08183306B2
Separately, 40 g of distilled water and 6 g of acetone were added to a 200 mL beaker, and 17.29 g of 1-benzyl-5-phenylbarbituric acid (BPBA)(58.74 mmol) was added thereto and the mixture was dispersed homogeneously to obtain an aqueous BPBA/acetone solution.

reactant | water | 40 g | O | H2O
reactant | 1-benzyl-5-phenylbarbituric acid | 58.74 mmol, 17.29 g | C(C1=CC=CC=C1)N1C(=O)NC(=O)C(C1=O)C1=CC=CC=C1 | C17H14N2O3
solvent | acetone | 6 g | CC(=O)C | C3H6O
product | BPBA acetone | C(C1=CC=CC=C1)N1C(=O)NC(=O)C(C1=O)C1=CC=CC=C1.CC(=O)C | InChI=1S/C17H14N2O3.C3H6O/c20-15-14(13-9-5-2-6-10-13)16(21)19(17(22)18-15)11-12-7-3-1-4-8-12;1-3(2)4/h1-10,14H,11H2,(H,18,20,22);1-2H3
